US05401851
Sec-butyllithium (53.2 mmoles, 41 ml of 1.3M in hexane) was added dropwise at -78° C. to 4-bromo-t-butoxybenzene (53.2 mmoles, 12.2 g) in 200 ml THF, stirred at -78° C. for 1 hour, and added slowly to a solution of triisopropylborate (58.5 mmoles, 11.0 g) in 50 ml THF while maintaining the temperature below -60° C. The mixture was allowed to warm gradually to -20° C. Chilled acetic acid (80 mmoles,9.6 ml) was added. Hydrogen peroxide (58.5 mmoles, 5.9 ml of 30% diluted with 5 ml water) was added dropwise over 15 minutes while maintaining the temperature below 0° C. After stirring 10 minutes, the solution was washed with ammonium sulfate solution, dried, and concentrated. The residue was triturated with hexane and filtered to yield 4.2 g of 4-t-butoxyphenol. (MS).

reactant | Sec-butyllithium | 53.2 mmoles, 1.3M, 41 ml | C(C)(CC)[Li]
reactant | 4-bromo-t-butoxybenzene | 53.2 mmoles, 12.2 g | BrC1=CC=C(C=C1)OC(C)(C)C | C10H13BrO
reactant | triisopropylborate | 58.5 mmoles, 11.0 g | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | acetic acid | 80 mmoles, 9.6 ml | C(C)(=O)O | C2H4O2
reactant | Hydrogen peroxide | 58.5 mmoles, 5.9 ml | OO | H2O2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-t-butoxyphenol | 4.2 g | C(C)(C)(C)OC1=CC=C(C=C1)O | C10H14O2
